US07084176B2
6-Nitroindole (1.0 g) and benzyl chloride (2.2 g) are dissolved in dimethylsulfoxide (10 ml), and thereto is added potassium hydroxide (1.0 g), and the mixture is stirred at room temperature for 12 hours. To the mixture is added ethyl acetate, and the organic layer is washed with water, dried over sodium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give N-benzyl-6-nitroindole (1.4 g).

reactant | 6-Nitroindole | 1.0 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | benzyl chloride | 2.2 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium hydroxide | 1.0 g | [OH-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | N-benzyl-6-nitroindole | 1.4 g | C(C1=CC=CC=C1)N1C=CC2=CC=C(C=C12)[N+](=O)[O-] | C15H12N2O2
